US08138339B2
2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-((1-carbamoylpiperidin-4-yl)methylamino)pyrimidine-5-carboxamide
A mixture of 2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(piperidin-4-ylmethylamino)pyrimidine-5-carboxamide (25 mg, 0.055 mmol) and KOCN (20 mg, 0.25 mmol) in acetic acid (2 mL) was stirred at 100 C for 4 h. The mixture was then purified by HPLC to give the titled compound (8 mg). MS 496.45 (M+H).

reactant | 2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-(piperidin-4-ylmethylamino)pyrimidine-5-carboxamide | 0.055 mmol, 25 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NCC1CCNCC1)C(=O)N | C23H32N8O2
reactant | KOCN | 0.25 mmol, 20 mg | O([K])C#N
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 2-(4-(4-acetylpiperazin-1-yl)phenylamino)-4-((1-carbamoylpiperidin-4-yl)methylamino)pyrimidine-5-carboxamide | 8 mg | C(C)(=O)N1CCN(CC1)C1=CC=C(C=C1)NC1=NC=C(C(=N1)NCC1CCN(CC1)C(N)=O)C(=O)N | C24H33N9O3
